Name:  ___               Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Atrial Fibrillation, DOE
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
Mr. ___ is a ___ y/o male without significant PMHx referred
from urgent care with new atrial fibrillation.

He states that he was in his USOH until 3 weeks ago when he
started to notice new onset tremors in his extremities. Then,
about 2 weeks ago, he noted intermittent symmetric bilateral leg
swelling, which seemed to come and go. About 1 week ago, he
notices dyspnea on exertion, only able to walk 2 miles instead 
of
his usual 4 miles. Over this 3 week time frame, he has also
experienced unintentional weight loss of ___ lbs, heart 
racing,
generalized weakness, fatigue, difficulty swallowing, voice
hoarseness, diarrhea and heat intolerance. He has also noticed
pain in the back of his R lung, which he believes is a pulled
muscle from playing golf. He has not taken any long trips, aside
from a 3 hour car ride to ___. He further denies chest 
pain,
fevers, chills, dysuria.

These symptoms prompted him to present to ___ urgent care where
he was noted to be in Afib with HR 100s, concern for s/sx CHF 
and
referred to the ED for further evaluation.
 
Past Medical History:
=====================
PAST MEDICAL HISTORY:
=====================
Hypertension
Anemia
Chronic sinusitis
Osteoarthritis of hips
Nasal polyposis
Colorectal polyps
Dupuytren's contracture
 
Social History:
___
Family History:
==============
FAMILY HISTORY:
===============
Strong family history of hyperthyroidism (brother, father,
sister).
No history of DM, CAD.
 
Physical Exam:
========================
ADMISSION PHYSICAL EXAM:
========================
VITALS: 98.4 147/76 105 20 95 Ra 
GENERAL: Alert and interactive. In no acute distress.
HEENT: NCAT. PERRL, EOMI. No ophthalmopathy. Sclera anicteric 
and
without injection. MMM. No stridor.
NECK: Thyroid is normal in size and texture, no nodules. No
cervical lymphadenopathy. JVP difficult to appreciate, estimated
~10.
CARDIAC: Irregularly irregular rhythm. Tachycardic. Audible S1
and S2. No murmurs/rubs/gallops.
LUNGS: Faint crackles at bilateral bases.
ABDOMEN: Normal bowels sounds, non distended, non-tender to deep
palpation in all four quadrants. No organomegaly.
EXTREMITIES: No clubbing, cyanosis, or edema. Pulses DP/Radial 
2+
bilaterally.
SKIN: Warm. Cap refill <2s. No rash.
NEUROLOGIC: CN2-12 intact. A&Ox3. MAE with purpose.

DISCHARGE PHYSICAL:
PHYSICAL EXAM:
24 HR Data (last updated ___ @ 1232)
    Temp: 98.2 (Tm 98.2), BP: 137/81 (108-137/57-81), HR: 62
(62-98), RR: 18 (___), O2 sat: 98% (93-98), O2 delivery: ra  

GENERAL: Alert and interactive. In no acute distress.
HEENT: NCAT. PERRL, EOMI. No ophthalmopathy. Sclera anicteric 
and
without injection. MMM. No stridor.
NECK: Thyroid is normal in size and texture, no nodules. No
cervical lymphadenopathy. 
CARDIAC: Irregularly irregular rhythm. Tachycardic. Audible S1
and S2. No murmurs/rubs/gallops.
LUNGS: CTAB, no increased work of breathing, no murmurs rubs or
gallops. No Stridor
ABDOMEN: Normal bowels sounds, non distended, non-tender to deep
palpation in all four quadrants. No organomegaly.
EXTREMITIES: No clubbing, cyanosis, or edema. Pulses DP/Radial 
2+
bilaterally.
SKIN: Warm. Cap refill <2s. No rash.
NEUROLOGIC: CN2-12 intact. A&Ox3. MAE with purpose. ___ strength
in shoulders,biceps, triceps, grip, hip flexion, leg flexion, 
leg
extension, dorsi/plantar flexion. 

 
Pertinent Results:
Admission Labs:

___ 03:43PM BLOOD WBC-5.6 RBC-3.60* Hgb-11.2* Hct-34.1* 
MCV-95 MCH-31.1 MCHC-32.8 RDW-12.8 RDWSD-44.9 Plt ___
___ 03:43PM BLOOD Neuts-62.3 ___ Monos-15.4* 
Eos-1.8 Baso-0.4 Im ___ AbsNeut-3.52 AbsLymp-1.12* 
AbsMono-0.87* AbsEos-0.10 AbsBaso-0.02
___ 03:43PM BLOOD ___ PTT-29.4 ___
___ 03:43PM BLOOD Glucose-109* UreaN-13 Creat-0.8 Na-144 
K-4.9 Cl-106 HCO3-22 AnGap-16
___ 03:43PM BLOOD cTropnT-<0.01 proBNP-3413*
___ 02:10AM BLOOD Albumin-3.8 Calcium-9.2 Phos-5.9* Mg-1.6 
Iron-60
___ 06:31PM BLOOD D-Dimer-1596*
___ 03:43PM BLOOD T4-12.8* T3-467*
___ 02:10AM BLOOD antiTPO-91*

Pertinent Interval Labs/Results

___:16AM BLOOD WBC-5.4 RBC-3.24* Hgb-10.0* Hct-30.8* 
MCV-95 MCH-30.9 MCHC-32.5 RDW-12.9 RDWSD-44.7 Plt ___
___ 06:16AM BLOOD Glucose-110* UreaN-18 Creat-0.9 Na-143 
K-4.9 Cl-106 HCO3-26 AnGap-11
___ 02:10AM BLOOD calTIBC-242* Ferritn-599* TRF-186*
___ 06:16AM BLOOD T4-11.0 T3-393*
___ 06:16AM BLOOD Calcium-9.6 Phos-4.6* Mg-1.9

V/Q Scan ___

IMPRESSION:  Normal lung scan.  A normal lung scan rules out 
recent pulmonary
embolism.
 
Thyroid Scan ___:

Final Report
HISTORY:  ___ male with history of primary 
hyperthyroidism.  Evaluate
for etiology.
 
COMPARISON:  No prior studies available for comparison.
 
TECHNIQUE:  ISOTOPE DATA: (___) 10.0 mCi Tc-99m 
Pertechnetate; 
 
FINDINGS:  Diffuse increased radiotracer uptake in the thyroid 
compared to the
salivary glands, consistent with Graves disease.
 
IMPRESSION:  Diffuse increased radiotracer uptake in the thyroid 
compared to the
salivary glands, consistent with Graves disease.

Thyroid Ultrasound ___:

IMPRESSION: 
 
Hypervascular and heterogeneous thyroid, consistent with 
thyroiditis.  No
discrete nodule identified.  Follow-up with ultrasound in ___ year 
is
recommended.

TE Echo ___:
The left atrial volume index is SEVERELY increased. The right 
atrium is moderately enlarged. There is mild
symmetric left ventricular hypertrophy with a normal cavity 
size. There is normal regional and global left
ventricular systolic function. The visually estimated left 
ventricular ejection fraction is 70%. There is no resting
left ventricular outflow tract gradient. Mildly dilated right 
ventricular cavity with normal free wall motion. The
aortic sinus is mildly dilated with mildly dilated ascending 
aorta. The aortic arch is mildly dilated. The aortic
valve leaflets (?#) are mildly thickened. There is mild aortic 
valve stenosis (valve area 1.5-1.9 cm2). There is
no aortic regurgitation. The mitral valve leaflets appear 
structurally normal with no mitral valve prolapse.
There is trivial mitral regurgitation. The tricuspid valve 
leaflets appear structurally normal. There is mild [1+]
tricuspid regurgitation. There is mild pulmonary artery systolic 
hypertension. There is no pericardial effusion.
 

 
Brief Hospital Course:
PATIENT SUMMARY STATEMENT 

Mr. ___ is a ___ w/ PMHx of HTN and a FH of Grave's disease
who is presenting with new atrial fibrillation weight loss,
tremor, heat intolerance and dyspnea on exertion, low TSH, high 
T3/T4 consistent with hyperthryoidism causing Atrial 
Fibrillation and high output HF. 

=============
ACUTE ISSUES:
=============
#Hyperthyroidism
Patient presented with 2 week history of weight loss, tremor, 
heat intolerance was found to have low TSH, high T3/T4 on 
admission and a FH of Grave's Disease. Workup included 
TSH,T3,T4, TPO (+) TSI antibody is pending. Thyroid ultrasound 
was performed did not reveal any nodules. Thyroid technitium 
scan showed increased uptake diffusely in thyroid consistent 
with Graves' disease. Endocrine was consulted and the Patient 
was started on propanolol 20 mg 3 times a day (switched to ER 
60mg daily) and methimazole 10 mg twice daily. Patient is to 
follow-up with endocrinology in 2 weeks and have lab work drawn 
before

#New onset Atrial fibrillation ___ hyperthyroidism
New diagnosis of A-fib. CHADS-Vasc score is 2 (HTN and CHF). 
Etiology likely due to hyperthyroidism, however, also checked 
V/Q scan which was negative for PE. Patient was rate controlled 
with propranolol 20 mg 3 times a day. Anticoagulation was 
started with apixaban 5 mg twice daily. Once hyperthyroidism 
resolved, should have repeat EKG to evaluate for persistence of 
atrial fibrillation.

#c/f High Output Heart Failure
Presented with 1 week history of dyspnea on exertion and 
decreased exercise tolerance with elevated BNP in setting of new 
onset Afib. Lower on DDx was physical pulmonary embolism as 
wells Score 1.5 (tachycardia), and d-dimer was elevated a PE was 
ruled out with a VQ scan. Echocardiogram showed severely dilated 
left atrium increased pulmonary artery pressures, dilated 
SVC/right atrium. Ejection fraction was 70%. Should have repeat 
TTE once acute hyperthyroidism is resolved. 

#Normocytic Anemia: likely anemia of chronic disease with high
ferritin, low transferin and low TIBC.
-Hgb 11.2 from baseline ___. Last colonoscopy ___ with 2
polyps identified, recommended ___ year follow up.

===============
CHRONIC ISSUES:
===============

#Hypertension
- Not on home meds patient remained normotensive throughout 
admission

#Other home meds
- Continue ASA 81 mg

=============
CORE MEASURES
=============
#CONTACT: ___ (wife) ___
#Code: Full

==================
TRANSITIONAL ISSUES
===================
[]F/u with PCP ___ ___ for further management of new onset 
atrial fibrillation. Patient on propranolol for rate control 
instead of conventional metoprolol because of concurrent 
hyperthyroidism. Once thyroid hormones normalize consider 
switching to metoprolol. 
[]Please repeat TTE in 1 month or hyperthyroidism normalized to 
follow-up once high output state has resolved.
[] Started on apixaban for atrial fibrillation. Please continue 
to assess the need for anticoagulation as atrial fibrillation 
may resolve with normalization of thyroid hormones.
[] Patient's aspirin for primary prophylaxis was discontinued as 
started on apixaban and not felt to be worth increase risk in 
bleeding. 
[]F/u with endocrinology for further management of new Dx 
Grave's Disease. 
[]Discharged on methimazole 10mg BID. Will need CBC and LFTs 
monitored while on this medication given risk of agranulocytosis 
and transaminitis. 

#CODE: Full (presumed)
#CONTACT: ___ (wife) ___

>30 minute spent on complex discharge 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Aspirin 81 mg PO DAILY 
2. Fluticasone Propionate NASAL 1 SPRY NU DAILY:PRN allergies 

 
Discharge Medications:
1.  Apixaban 5 mg PO BID  
2.  Methimazole 10 mg PO BID 
RX *methimazole 10 mg 1 tablet(s) by mouth twice a day Disp #*60 
Tablet Refills:*0 
3.  Propranolol 20 mg PO TID 
RX *propranolol 60 mg 1 capsule(s) by mouth once a day Disp #*30 
Capsule Refills:*0 
4.  Fluticasone Propionate NASAL 1 SPRY NU DAILY:PRN allergies  
5.Outpatient Lab Work
ICD-10: ___.00
Please have labs drawn ___ days prior to appointment with 
endocrinologist
LAB TEST: CBC w/ diff, basic metabolic profile, Liver function 
tests, T3, T4, TSH
Please fax results to: ___ ___
___: ___

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Grave's Disease
New Onset Atrial Fibrillation ___ Hyperthyroidism
High Output Heart Failure
 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr ___, 

It was a pleasure taking care of you while you are at ___ 
___,

Why was admitted to the hospital?
–Your heart had an irregular rhythm called atrial fibrillation 
you are also having symptoms of shortness of breath this was 
concerning that there was an abnormality was your thyroid.

What happened while I was in the hospital?
-We diagnosed you with hyperthyroidism through blood test and 
scans.
-We started you on medications to lower your thyroid hormones.
-We started you on a medication to control the rate of your 
hear.
-We started you on an anticoagulant or to prevent your "blood 
thinner" blood from clotting. 

What should I do when only the hospital?
- Please be aware that this puts you at higher risk for 
bleeding.  If you fall and hit her head please seek emergent 
medical care as you are at increased risk of bleeding in his 
brain.
-Stop taking aspirin for now and discuss with PCP if needed to 
be restarted. This can also increase your risk of bleeding.
–Take all your medications as prescribed
–See your primary care provider ___ 1 week.
–Follow-up with endocrinology in 2 weeks
-___ days prior to seeing the endocrinologist have lab work 
performed.  Your endocrinologist will want to see the results of 
that lab work at the appointment.

 
Followup Instructions:
___